US07332501B2
1′-({6-Chloro-1-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-1H-indol-3-yl}carbonyl)-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure V as described hereinabove, the alkylation of 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one (the preparation of which have been described in example 19) with commercially available 2-chloro-1-(4-methyl-piperazin-1-yl)-ethanone as electrophile, the title compound was obtained as a white solid. ES-MS m/e (%): 539.4 (M+H+).

reactant | 1′-[(6-chloro-1H-indol-3-yl)carbonyl]-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C21H16ClFN2O3
reactant | 2-chloro-1-(4-methyl-piperazin-1-yl)-ethanone | ClCC(=O)N1CCN(CC1)C | C7H13ClN2O
product | 1′-({6-Chloro-1-[2-(4-methylpiperazin-1-yl)-2-oxoethyl]-1H-indol-3-yl}carbonyl)-5-fluoro-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | ClC1=CC=C2C(=CN(C2=C1)CC(=O)N1CCN(CC1)C)C(=O)N1CCC2(CC1)OC(C1=C2C=CC(=C1)F)=O | C28H28ClFN4O4
